* File: myFA.pex.netlist.pex
* Created: Wed Nov 27 19:35:37 2024
* Program "Calibre xRC"
* Version "v2016.4_38.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MYFA%NET79 3 7 9 18 22 24 25 26 27 28 29 30 31 33 45 50 53 54
c80 54 GND 0.0035408f
c81 53 GND 0.0329897f
c82 50 GND 0.0259267f
c83 45 GND 0.00162853f
c84 33 GND 0.006283f
c85 31 GND 0.00179166f
c86 30 GND 0.00303152f
c87 29 GND 0.0079495f
c88 27 GND 0.00707782f
c89 25 GND 0.00227463f
c90 24 GND 0.00660401f
c91 22 GND 0.0282693f
c92 18 GND 0.0213606f
c93 10 GND 0.00313008f
c94 9 GND 0.00984064f
c95 7 GND 0.0273748f
c96 3 GND 0.0219488f
r97 54 57 77.0449
r98 53 54 88.2939
r99 49 53 4.07143
r100 49 50 88.2939
r101 44 50 5.14357
r102 44 45 0.0418175
r103 32 45 0.160909
r104 32 33 0.610714
r105 31 45 0.160909
r106 30 31 0.556429
r107 29 38 0.366429
r108 28 33 0.163029
r109 28 38 0.0815147
r110 27 34 0.366429
r111 26 30 0.163029
r112 26 34 0.0815147
r113 24 57 5.01429
r114 24 25 0.10486
r115 20 25 4.32724
r116 20 22 35.49
r117 16 25 4.32724
r118 16 18 26.91
r119 12 50 77.0449
r120 9 12 3.9
r121 9 10 0.422157
r122 5 10 5.21812
r123 5 7 33.93
r124 1 10 5.21812
r125 1 3 25.35
.ends

.subckt PM_MYFA%A 3 8 9 13 16 17 21 24 25 29 32 33 34 38
c50 38 GND 0.00308812f
c51 36 GND 0.00220635f
c52 35 GND 0.00220635f
c53 34 GND 0.00210096f
c54 33 GND 0.0105166f
c55 29 GND 0.0355589f
c56 25 GND 0.0908657f
c57 21 GND 0.0483858f
c58 17 GND 0.0752904f
c59 13 GND 0.0476913f
c60 10 GND 0.00396468f
c61 9 GND 0.059932f
c62 8 GND 0.0254966f
c63 3 GND 0.0188424f
r64 38 41 77.0449
r65 33 41 3.96686
r66 33 34 0.364951
r67 29 32 73.32
r68 27 32 42.9
r69 26 36 3.30287
r70 25 27 4.35808
r71 25 26 201.24
r72 21 24 73.32
r73 19 36 0.858359
r74 19 24 42.9
r75 18 35 3.30287
r76 17 36 3.30287
r77 17 18 171.99
r78 13 16 73.32
r79 11 35 0.858359
r80 11 16 42.9
r81 9 35 3.30287
r82 9 10 138.84
r83 6 10 4.35808
r84 6 8 42.9
r85 5 34 5.11323
r86 5 8 29.25
r87 1 34 5.11323
r88 1 3 30.42
.ends

.subckt PM_MYFA%B 3 5 7 11 13 15 19 21 23 27 29 34 42
c52 42 GND 0.0140141f
c53 34 GND 0.00380829f
c54 32 GND 0.00220635f
c55 31 GND 0.00220635f
c56 27 GND 0.0612061f
c57 23 GND 0.0758829f
c58 19 GND 0.0425762f
c59 15 GND 0.0772088f
c60 11 GND 0.0581163f
c61 7 GND 0.0542498f
c62 3 GND 0.0549248f
r63 37 42 6.95559
r64 37 39 3.19091
r65 34 37 77.0449
r66 27 29 73.32
r67 25 27 65.52
r68 24 32 3.30287
r69 23 25 4.35808
r70 23 24 201.24
r71 19 21 73.32
r72 17 32 0.858359
r73 17 19 65.52
r74 16 31 3.30287
r75 15 32 3.30287
r76 15 16 171.99
r77 11 13 73.32
r78 9 31 0.858359
r79 9 11 65.52
r80 7 31 3.30287
r81 7 42 125.58
r82 3 5 73.32
r83 1 39 3.43442
r84 1 3 56.16
.ends

.subckt PM_MYFA%NET4 1 2 7 8
c16 8 GND 0.00268516f
c17 7 GND 0.00716242f
c18 2 GND 0.00657527f
c19 1 GND 0.00715845f
r20 7 9 0.212696
r21 7 8 1.75385
r22 3 8 0.212696
r23 2 9 0.730143
r24 1 3 0.730143
.ends

.subckt PM_MYFA%NET7 1 2 7 8
c16 8 GND 0.00270487f
c17 7 GND 0.0093894f
c18 2 GND 0.00403425f
c19 1 GND 0.00473033f
r20 7 9 0.212696
r21 7 8 1.75385
r22 3 8 0.212696
r23 2 9 0.244286
r24 1 3 0.244286
.ends

.subckt PM_MYFA%CIN 3 5 9 11 13 14 17 19 23 26 28
c44 28 GND 0.0720736f
c45 23 GND 0.00659442f
c46 17 GND 0.0497008f
c47 14 GND 0.00343141f
c48 13 GND 0.0375638f
c49 9 GND 0.0458269f
c50 3 GND 0.0637898f
r51 29 37 5.01429
r52 28 29 77.0449
r53 26 28 8.55814
r54 23 31 5.01429
r55 22 26 1.38971
r56 22 23 77.0449
r57 17 19 73.32
r58 15 17 42.9
r59 14 37 2.78571
r60 13 15 4.51741
r61 13 14 76.8857
r62 9 11 73.32
r63 7 37 1.73169
r64 7 9 42.9
r65 3 5 73.32
r66 1 31 1.73169
r67 1 3 42.9
.ends

.subckt PM_MYFA%GND! 1 3 14 26 39 40 41 42 43 44 60 62 67 73 79 85 90 96 115
c87 117 GND 0.00232036f
c88 116 GND 0.00209466f
c89 115 GND 6.85606e-19
c90 114 GND 0.00103669f
c91 113 GND 0.00103669f
c92 112 GND 8.10993e-19
c93 111 GND 0.00116232f
c94 102 GND 0.00361845f
c95 96 GND 0.0434679f
c96 90 GND 0.00570862f
c97 85 GND 0.00670984f
c98 79 GND 0.00236101f
c99 73 GND 0.0209779f
c100 67 GND 0.0103783f
c101 62 GND 0.0059388f
c102 60 GND 0.00765241f
c103 52 GND 0.00361845f
c104 50 GND 0.00153884f
c105 44 GND 0.00760947f
c106 43 GND 0.00669941f
c107 42 GND 0.0068331f
c108 41 GND 0.00728679f
c109 40 GND 0.00679791f
c110 39 GND 0.00626213f
c111 26 GND 0.0171062f
c112 14 GND 0.00708997f
c113 13 GND 0.00103669f
c114 3 GND 0.0209015f
c115 1 GND 0.00573214f
r116 107 117 0.171069
r117 104 117 0.0335492
r118 103 116 0.171069
r119 102 117 0.171069
r120 102 103 0.584615
r121 98 116 0.0335492
r122 97 115 0.171069
r123 96 116 0.171069
r124 96 97 7.42462
r125 92 115 0.0335492
r126 91 114 0.171069
r127 90 115 0.171069
r128 90 91 1.92923
r129 86 114 0.0335492
r130 85 114 0.171069
r131 84 113 0.171069
r132 81 113 0.0335492
r133 80 112 0.171069
r134 79 113 0.171069
r135 79 80 0.833077
r136 75 112 0.0335492
r137 74 111 0.171069
r138 73 112 0.171069
r139 73 74 5.08615
r140 69 111 0.0335492
r141 67 111 0.171069
r142 67 68 1.92923
r143 62 63 0.0335492
r144 62 68 0.171069
r145 60 62 0.584615
r146 54 60 0.212696
r147 52 107 0.584615
r148 51 85 1.75385
r149 50 84 0.584615
r150 44 98 0.789857
r151 43 92 0.789857
r152 42 86 0.789857
r153 41 75 0.789857
r154 40 69 0.789857
r155 39 63 0.789857
r156 26 52 0.171069
r157 21 26 0.0335492
r158 14 21 0.789857
r159 13 50 0.171069
r160 13 51 0.171069
r161 8 13 0.0335492
r162 3 104 0.789857
r163 3 81 0.789857
r164 3 54 0.789857
r165 1 8 0.789857
.ends

.subckt PM_MYFA%VDD! 2 3 15 26 38 39 40 41 42 43 56 61 67 79 84 90 104
c88 111 GND 0.0023228f
c89 110 GND 0.0023228f
c90 109 GND 0.0023228f
c91 108 GND 0.0020971f
c92 107 GND 0.0023228f
c93 106 GND 0.0023228f
c94 105 GND 0.0023228f
c95 104 GND 0.0020971f
c96 96 GND 0.00361845f
c97 90 GND 0.051313f
c98 84 GND 0.0109595f
c99 79 GND 0.0123467f
c100 73 GND 0.00545783f
c101 67 GND 0.0349296f
c102 61 GND 0.0111752f
c103 56 GND 0.00765485f
c104 55 GND 0.00361845f
c105 48 GND 0.00361845f
c106 46 GND 0.00361845f
c107 43 GND 0.00871651f
c108 42 GND 0.00901258f
c109 41 GND 0.00758491f
c110 40 GND 0.00840149f
c111 39 GND 0.00863156f
c112 38 GND 0.00646321f
c113 26 GND 0.0173994f
c114 15 GND 0.0119866f
c115 13 GND 0.00236105f
c116 3 GND 0.0216475f
c117 2 GND 0.00931999f
r118 101 111 0.171069
r119 98 111 0.0335492
r120 97 110 0.171069
r121 96 111 0.171069
r122 96 97 0.584615
r123 92 110 0.0335492
r124 91 109 0.171069
r125 90 110 0.171069
r126 90 91 7.42462
r127 86 109 0.0335492
r128 85 108 0.171069
r129 84 109 0.171069
r130 84 85 1.92923
r131 80 108 0.0335492
r132 79 108 0.171069
r133 78 107 0.171069
r134 75 107 0.0335492
r135 74 106 0.171069
r136 73 107 0.171069
r137 73 74 0.833077
r138 69 106 0.0335492
r139 68 105 0.171069
r140 67 106 0.171069
r141 67 68 5.08615
r142 63 105 0.0335492
r143 62 104 0.171069
r144 61 105 0.171069
r145 61 62 1.92923
r146 57 104 0.0335492
r147 55 104 0.171069
r148 55 56 0.584615
r149 50 56 0.212696
r150 48 101 0.584615
r151 47 79 1.75385
r152 46 78 0.584615
r153 43 92 0.814286
r154 42 86 0.814286
r155 41 80 0.814286
r156 40 69 0.814286
r157 39 63 0.814286
r158 38 57 0.814286
r159 26 48 0.171069
r160 21 26 0.0335492
r161 15 21 1.30286
r162 13 46 0.171069
r163 13 47 0.171069
r164 8 13 0.0335492
r165 3 98 0.814286
r166 3 75 0.814286
r167 3 50 0.814286
r168 2 8 1.30286
.ends

.subckt PM_MYFA%COUT 1 2 10
c13 1 GND 0.0208375f
r14 2 10 0.827857
r15 1 10 1.47657
.ends

.subckt PM_MYFA%NET65 1 2 3 8 9 14 15 16
c26 16 GND 0.00423744f
c27 15 GND 0.00170281f
c28 14 GND 0.00265651f
c29 9 GND 0.0017611f
c30 8 GND 0.00620408f
c31 2 GND 0.00391605f
c32 1 GND 0.00647969f
r33 14 16 0.0362674
r34 14 15 0.584615
r35 10 15 0.212696
r36 8 11 0.212696
r37 8 9 1.92923
r38 4 9 0.212696
r39 3 16 0.260571
r40 2 11 0.730143
r41 2 10 0.0841429
r42 1 4 0.730143
.ends

.subckt PM_MYFA%NET42 1 2 3 8 9 14 15
c26 15 GND 0.00184457f
c27 14 GND 0.00285338f
c28 9 GND 0.00171847f
c29 8 GND 0.00725272f
c30 3 GND 0.00405846f
c31 2 GND 0.00117755f
c32 1 GND 0.00402533f
r33 14 19 0.0362674
r34 14 15 0.584615
r35 11 15 0.212696
r36 8 10 0.212696
r37 8 9 1.92923
r38 4 9 0.212696
r39 3 19 0.203571
r40 2 11 0.0271429
r41 2 10 0.244286
r42 1 4 0.244286
.ends

.subckt PM_MYFA%NET35 3 7 9 11 16 17 18 19 20 21 23 37
c40 37 GND 4.52221e-19
c41 23 GND 0.00614643f
c42 21 GND 0.00204711f
c43 20 GND 0.00306625f
c44 19 GND 0.00822458f
c45 17 GND 0.00746387f
c46 11 GND 0.0307344f
c47 10 GND 0.00386362f
c48 9 GND 0.00984064f
c49 7 GND 0.0284502f
c50 3 GND 0.0219488f
r51 28 37 0.0418175
r52 22 37 0.160909
r53 22 23 0.610714
r54 21 37 0.160909
r55 20 21 0.556429
r56 19 31 0.366429
r57 18 23 0.163029
r58 18 31 0.0815147
r59 17 24 0.366429
r60 16 20 0.163029
r61 16 24 0.0815147
r62 11 28 5.99857
r63 11 12 77.0449
r64 9 12 3.9
r65 9 10 0.422157
r66 5 10 5.21812
r67 5 7 33.93
r68 1 10 5.21812
r69 1 3 25.35
.ends

.subckt PM_MYFA%S 1 2 10
c6 1 GND 0.0280543f
r7 2 10 0.814286
r8 1 10 1.49014
.ends

